US09238640B2
Preparation of N-Benzyl-N-(1-(5-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)pyridin-2-yl)piperidin-4-yl)acetamide
To a solution of N-benzyl-N-(piperidin-4-yl)acetamide (1.5 g, 6.3 mmol) and 2-(6-chloropyridin-3-yl)-5,7-dimethoxyquinazolin-4(3H)-one (1.0 g, 3.2 mmol) in DMF (15 mL) was added K2CO3 (0.875 g, 6.3 mmol) and the reaction was heated at reflux temperature overnight. The resulting mixture was concentrated in vacuo and purified by flash chromatography on silica gel, eluting with 1% to 10% MeOH/CH2Cl2, to afford the title compound (0.500 g, 30%) as a white solid. 1H NMR (300 MHz, DMSO-d6): δ 11.84 (s, 1H), 8.86 (s, 1H), 8.22 (d, J=9.2 Hz, 1H), 7.33-7.37 (m, 1H), 7.14-7.27 (m, 4H), 6.88-6.96 (m, 1H), 6.66 (d, J=1.5 Hz, 1H), 6.46 (d, J=1.5 Hz, 1H), 4.44-4.58 (m, 4.5H), 4.10-4.20 (m, 0.5H), 3.87 (s, 3H), 3.83 (s, 3H), 2.86-2.98 (m, 2H), 2.25 (s, 1.5H), 1.95 (s, 1.5H), 1.45-1.77 (m, 4H). ESI/APCI MS m/z 514 [M+H]+.

reactant | N-benzyl-N-(piperidin-4-yl)acetamide | 6.3 mmol, 1.5 g | C(C1=CC=CC=C1)N(C(C)=O)C1CCNCC1 | C14H20N2O
reactant | 2-(6-chloropyridin-3-yl)-5,7-dimethoxyquinazolin-4(3H)-one | 3.2 mmol, 1.0 g | ClC1=CC=C(C=N1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C15H12ClN3O3
reactant | K2CO3 | 6.3 mmol, 0.875 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | N-Benzyl-N-(1-(5-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)pyridin-2-yl)piperidin-4-yl)acetamide | 0.500 g, 30% | C(C1=CC=CC=C1)N(C(C)=O)C1CCN(CC1)C1=NC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C29H31N5O4
